US05110818
2-chloro-9-(2,6-difluorobenzyl)-6-(N,N-dimethylamino)-9H-purine;
9-(2,6-difluorobenzyl)-6-(N,N-dimethylamino)-2-(N-methylamino)-9H-purine; 2-amino-9-(2,6-difluorobenzyl)-6-(N,N-dimethylamino)-9H-purine; 2-(N-ethylamino)-9-(2,6-difluorobenzyl)-6(N,N-dimethylamino)-9H-purine; 9-(2,6-difluorobenzyl)-2-(N-methylamino)-9H-purine; 9-(2,6-difluorobenzyl)-2-(N,N-dimethylamino)-9H-purine; 2,6-bis(N,N-dimethylamino)-9-(2,6-difluorobenzyl)-9H-purine; 2-amino-9-(2,6-difluorobenzyl)-6-(N-methylamino)-9H-purine; 2,6-bis(N-methylamino)-9-(2,6-difluorobenzyl)-9H-purine; 2,6-diamino-9-(2,6-difluorobenzyl)-9H-purine; 6-amino-9-(2,6-difluorobenzyl)-2-(N-methylamino)-9H-purine; 6-amino-9-(2,6-difluorobenzyl)-2-(N,N-dimethylamino)-9H-purine; 2-(N-ethylamino)-6-amino-9-(2,6-difluorobenzyl)-9H-purine and 2-chloro-9-(2,6-difluorobenzyl)-9H-purine.

reactant | 9-(2,6-difluorobenzyl)-6-(N,N-dimethylamino)-2-(N-methylamino)-9H-purine | FC1=C(CN2C3=NC(=NC(=C3N=C2)N(C)C)NC)C(=CC=C1)F | C15H16F2N6
reactant | 2-amino-9-(2,6-difluorobenzyl)-6-(N,N-dimethylamino)-9H-purine | NC1=NC(=C2N=CN(C2=N1)CC1=C(C=CC=C1F)F)N(C)C | C14H14F2N6
reactant | 2-(N-ethylamino)-9-(2,6-difluorobenzyl)-6(N,N-dimethylamino)-9H-purine | C(C)NC1=NC(=C2N=CN(C2=N1)CC1=C(C=CC=C1F)F)N(C)C | C16H18F2N6
reactant | 9-(2,6-difluorobenzyl)-2-(N-methylamino)-9H-purine | FC1=C(CN2C3=NC(=NC=C3N=C2)NC)C(=CC=C1)F | C13H11F2N5
reactant | 9-(2,6-difluorobenzyl)-2-(N,N-dimethylamino)-9H-purine | FC1=C(CN2C3=NC(=NC=C3N=C2)N(C)C)C(=CC=C1)F | C14H13F2N5
reactant | 2,6-bis(N,N-dimethylamino)-9-(2,6-difluorobenzyl)-9H-purine | CN(C)C1=NC(=C2N=CN(C2=N1)CC1=C(C=CC=C1F)F)N(C)C | C16H18F2N6
reactant | 2-amino-9-(2,6-difluorobenzyl)-6-(N-methylamino)-9H-purine | NC1=NC(=C2N=CN(C2=N1)CC1=C(C=CC=C1F)F)NC | C13H12F2N6
reactant | 2,6-bis(N-methylamino)-9-(2,6-difluorobenzyl)-9H-purine | CNC1=NC(=C2N=CN(C2=N1)CC1=C(C=CC=C1F)F)NC | C14H14F2N6
reactant | 2,6-diamino-9-(2,6-difluorobenzyl)-9H-purine | NC1=NC(=C2N=CN(C2=N1)CC1=C(C=CC=C1F)F)N | C12H10F2N6
reactant | 6-amino-9-(2,6-difluorobenzyl)-2-(N-methylamino)-9H-purine | NC1=C2N=CN(C2=NC(=N1)NC)CC1=C(C=CC=C1F)F | C13H12F2N6
reactant | 6-amino-9-(2,6-difluorobenzyl)-2-(N,N-dimethylamino)-9H-purine | NC1=C2N=CN(C2=NC(=N1)N(C)C)CC1=C(C=CC=C1F)F | C14H14F2N6
reactant | 2-(N-ethylamino)-6-amino-9-(2,6-difluorobenzyl)-9H-purine | C(C)NC1=NC(=C2N=CN(C2=N1)CC1=C(C=CC=C1F)F)N | C14H14F2N6
reactant | 2-chloro-9-(2,6-difluorobenzyl)-9H-purine | ClC1=NC=C2N=CN(C2=N1)CC1=C(C=CC=C1F)F | C12H7ClF2N4
product | 2-chloro-9-(2,6-difluorobenzyl)-6-(N,N-dimethylamino)-9H-purine | ClC1=NC(=C2N=CN(C2=N1)CC1=C(C=CC=C1F)F)N(C)C | C14H12ClF2N5
